US04116972
Aluminium α-[4-(1-oxo-4,7-dihydro-2-isoindolinyl)phenyl]propionate (Compound 7)
A mixture of 0.5 g (0.0018 mole) of α-[4-(1-oxo-4,7-dihydro-2-isoindolinyl)phenyl]propionic acid, 0.072 g (0.0018 mole) of sodium hydroxide and 5 ml of water was stirred for about 1 hour. At the end of this time, a solution of 0.434 g (0.0018 mole) of aluminium chloride hexahydrate in 10 ml of water was added dropwise at room temperature to the mixture. The white precipitate produced was collected by filtration, washed with 75 ml of water and dried at 105° C. for 4 hours. There was obtained 0.45 g of a white solid, which was sparingly soluble in most organic solvents and slightly soluble in dimethyl sulphoxide, and which had a melting point over 300° C.

reactant | α-[4-(1-oxo-4,7-dihydro-2-isoindolinyl)phenyl]propionic acid | 0.0018 mole, 0.5 g | O=C1N(CC=2CC=CCC12)C1=CC=C(C=C1)C(C(=O)O)C | C17H17NO3
reactant | sodium hydroxide | 0.0018 mole, 0.072 g | [OH-].[Na+]
reactant | aluminium chloride hexahydrate | 0.0018 mole, 0.434 g | O.O.O.O.O.O.[Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | 10 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | Aluminium α-[4-(1-oxo-4,7-dihydro-2-isoindolinyl)phenyl]propionate | 0.45 g | O=C1N(CC=2CC=CCC12)C1=CC=C(C=C1)C(C(=O)[O-])C.[Al+3].O=C1N(CC=2CC=CCC12)C1=CC=C(C=C1)C(C(=O)[O-])C.O=C1N(CC=2CC=CCC12)C1=CC=C(C=C1)C(C(=O)[O-])C | InChI=1S/3C17H17NO3.Al/c3*1-11(17(20)21)12-6-8-14(9-7-12)18-10-13-4-2-3-5-15(13)16(18)19;/h3*2-3,6-9,11H,4-5,10H2,1H3,(H,20,21);/q;;;+3/p-3
